US05206257
4-Trifluoromethyltoluene (12.8 g) was treated at 60°-70° C. with a mixture of concentrated nitric acid (25 ml) and concentrated sulphuric acid (25 ml) for 5 hours. The solution was poured onto ice (0.5 litres) and extracted with ether (3×100 ml). The combined ether extracts were washed with water, dried over sodium sulphate, filtered and evaporated to dryness to give 2-methyl-5-trifluoromethylnitrobenzene (14.8 g) as a pale yellow oil.

reactant | 4-Trifluoromethyltoluene | 12.8 g | FC(C1=CC=C(C=C1)C)(F)F | C8H7F3
reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 2-methyl-5-trifluoromethylnitrobenzene | 14.8 g | CC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO2
